### PR TITLE
[Merged by Bors] - feat(NumberTheory/ArithmeticFunction): Basic lemmas about `μ^2`

### PR DESCRIPTION
**Pull request by amellendijk**
Basic results stating `μ^2` is the indicator function for squarefree natural numbers. This came up during my Selberg sieve project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 1]
```diff
@@ -1064,6 +1064,26 @@ theorem moebius_ne_zero_iff_eq_or {n : ℕ} : μ n ≠ 0 ↔ μ n = 1 ∨ μ n =
   · rcases h with (h | h) <;> simp [h]
 #align nat.arithmetic_function.moebius_ne_zero_iff_eq_or ArithmeticFunction.moebius_ne_zero_iff_eq_or
 
+theorem moebius_sq_of_squarefree {l : ℕ} (hl : Squarefree l) : μ l ^ 2 = 1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:1067]:
```suggestion
theorem moebius_sq_eq_one_of_squarefree {l : ℕ} (hl : Squarefree l) : μ l ^ 2 = 1 := by
```
similar to `moebius_eq_zero_of_not_squarefree`.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 2]
```diff
@@ -1064,6 +1064,26 @@ theorem moebius_ne_zero_iff_eq_or {n : ℕ} : μ n ≠ 0 ↔ μ n = 1 ∨ μ n =
...
+  rw [moebius_apply_of_squarefree hl, ← pow_mul, mul_comm, pow_mul, neg_one_sq, one_pow]
+
+theorem abs_moebius_of_squarefree {l : ℕ} (hl : Squarefree l) : |μ l| = 1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:1070]:
```suggestion
theorem abs_moebiuseq_one_of_squarefree {l : ℕ} (hl : Squarefree l) : |μ l| = 1 := by
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 3]
```diff
@@ -1064,6 +1064,26 @@ theorem moebius_ne_zero_iff_eq_or {n : ℕ} : μ n ≠ 0 ↔ μ n = 1 ∨ μ n =
...
+  simp only [moebius_apply_of_squarefree hl, abs_pow, abs_neg, abs_one, one_pow]
+
+theorem moebius_sq {n : ℕ} :
+    μ n ^ 2 = if Squarefree n then 1 else 0 := by
+  split_ifs with h
+  · exact moebius_sq_of_squarefree h
+  · simp only [Nat.isUnit_iff, zero_lt_two, pow_eq_zero_iff, moebius_eq_zero_of_not_squarefree h,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:1077]: Do you really need `Nat.isUnit_iff`?

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 4]
```diff
@@ -1064,6 +1064,26 @@ theorem moebius_ne_zero_iff_eq_or {n : ℕ} : μ n ≠ 0 ↔ μ n = 1 ∨ μ n =
...
+      zero_pow (show 2 ≠ 0 by norm_num)]
+
+theorem abs_moebius {n : ℕ} :
+    |μ n| = if Squarefree n then 1 else 0 := by
+  split_ifs with h
+  · exact abs_moebius_of_squarefree h
+  · simp only [Nat.isUnit_iff, zero_lt_two, pow_eq_zero_iff, moebius_eq_zero_of_not_squarefree h,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:1084]: The first three simp lemmas should not be necessary. (The lhs simplifies to `|0|` via `moebius_eq_zero_of_not_squarefree h`, so `abs_zero` should be sufficient.)

**Comment by loefflerd** [comment]
LGTM

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
